US07629342B2
1A. Preparation of 4,5-Dichloro-1,2-dihydropyridazine-3,6-dione
To a round bottom flask was added water (170 ml) and hydrazine dihydrochloride salt (41.9 gm, 398.8 mmol). The solution was brought to reflux and dichloromandelic anhydride (66.6 gm, 398.9 mmol) was added portionwise. The reaction was stirred at reflux for 30 min. After this time, the solution was cooled to rt and the solid was collected by filtration to give the title compound, 4,5-dichloro-1,2-dihydropyridazine-3,6-dione (65 gm, 90% yield) as a white solid. MS (M+H)=181.0.

reactant | hydrazine dihydrochloride salt | 398.8 mmol, 41.9 gm | Cl.Cl.NN
reactant | dichloromandelic anhydride | 398.9 mmol, 66.6 gm | ClC1=C(C(C(=O)OC(C(O)(C2=C(C=CC=C2)Cl)Cl)=O)(O)Cl)C=CC=C1 | C16H10Cl4O5
reactant | water | 170 ml | O | H2O
product | 4,5-dichloro-1,2-dihydropyridazine-3,6-dione | 65 gm, 90% yield | ClC=1C(NNC(C1Cl)=O)=O | C4H2Cl2N2O2
